US09284333B2
To a solution of (S)-3-hydroxy-pyrrolidine-1-carboxylic acid tert-butyl ester (3.0 g, 16 mmol) in dry dimethylformamide at 0° C. was added sodium hexamethyldisilazide (3.5 g, 19 mmol) and after stirring for 5 min cyclopropylmethyl bromide (2.38 g, 17.6 mmol) was added and the mixture was stirred for 40 min at 0° C., then at room temperature for 3 h. After further addition of 1.5 g sodium hexamethyldisilazide and 1.4 g cyclopropylmethyl bromide the mixture was heated at 100° C. for 1 h. After addition of aqueous sodium hydrogencarbonate, the mixture was extracted 3 times with dichloromethane, the solvents were evaporated and the crude mixture was dissolved in dichloromethane (20 ml) and 4 M hydrogen chloride in dioxane (42 ml, 168 mmol). After addition of aqueous hydrochloric acid the organic layer was discarded and the aqueous layer was freeze-dried to give 2.89 g of crude (S)-3-cyclopropylmethoxy-pyrrolidine hydrochloride which was used in the next step without further purification. LC/MS (method 7): Rt=0.34 min; m/z=142.1 (M+H+).

reactant | (S)-3-hydroxy-pyrrolidine-1-carboxylic acid tert-butyl ester | 16 mmol, 3.0 g | C(C)(C)(C)OC(=O)N1C[C@H](CC1)O | C9H17NO3
reactant | sodium hexamethyldisilazide | 19 mmol, 3.5 g | C[Si]([N-][Si](C)(C)C)(C)C.[Na+]
reactant | cyclopropylmethyl bromide | 17.6 mmol, 2.38 g | C1(CC1)CBr | C4H7Br
reactant | sodium hexamethyldisilazide | 1.5 g | C[Si]([N-][Si](C)(C)C)(C)C.[Na+]
reactant | cyclopropylmethyl bromide | 1.4 g | C1(CC1)CBr | C4H7Br
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | hydrogen chloride | 4 M | Cl | ClH
reactant | dioxane | 168 mmol, 42 ml | O1CCOCC1 | C4H8O2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | (S)-3-cyclopropylmethoxy-pyrrolidine hydrochloride | 2.89 g | Cl.C1(CC1)CO[C@@H]1CNCC1 | InChI=1S/C8H15NO.ClH/c1-2-7(1)6-10-8-3-4-9-5-8;/h7-9H,1-6H2;1H/t8-;/m0./s1
